US05332757
Using an analogous procedure to that described in Example 50, 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]acetophenone oxime in 83% yield, m.p. 180°-181° C.;

reactant | 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]acetophenone | FC=1C=C(C=C(C1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O)C1(CCOCC1)OC | C20H21FO5S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]acetophenone oxime | 83% yield | FC=1C=C(C=C(C1)S(=O)(=O)C1=CC=C(C=C1)/C(/C)=N/O)C1(CCOCC1)OC | C20H22FNO5S
